US06914160B1
2-Ethylamino-nicotinic acid
Potassium carbonate (9.21 g, 66.6 mmol) was added to a mixture of 2-chloronicotinic acid (5.0 g, 31.7 mol), ethylamine hydrochloride (5.18 g, 63.4 mmol) and copper (I) bromide (450 mg, 3.17 mmol) in N,N-dimethylformamide (50 ml), and the reaction heated at 100° C. for 1.5 hours, then cooled. The resulting solid was removed by filtration, and the filtrate evaporated under reduced pressure. The residual blue/green solid was triturated with acetone, and the resulting solid filtered off and dried in vacuo to afford the title compound.

reactant | Potassium carbonate | 66.6 mmol, 9.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloronicotinic acid | 31.7 mol, 5.0 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | ethylamine hydrochloride | 63.4 mmol, 5.18 g | Cl.C(C)N
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | copper (I) bromide | 3.17 mmol, 450 mg | [Cu]Br
product | 2-Ethylamino-nicotinic acid | C(C)NC1=C(C(=O)O)C=CC=N1 | C8H10N2O2
